* \\courtenay.ecs.vuw.ac.nz\sukhadyla\GitHub\DClassAmp\opFilter\opFilter.asc
C1 N002 0 130µF
L1 N001 N002 1.51mH
R1 P001 N002 4
V1 N001 0 SINE(13 13 250) AC 1
V2 N003 N003 SINE(2.5 2.5 500)
C2 0 N002 36µF
L2 P001 0 33µH
;tran 50ms
.ac dec 20 1 10000
.backanno
.end
